US06303649B1
To a mixture of (2R)-2-{[N,N-di(4-fluorophenyl)-carbamoyloxy]methyl}-2,5-dihydroxy-1,2,3,4-tetrahydro-naphthalene (0.18 g) and powder K2CO3 in dry DMF (1.8 ml) was added ethyl bromoacetate (0.047 ml) at room temperature. After stirring for 16 hours, the reaction mixture was partitioned between AcOEt and water. The organic layer was washed with water, brine, dried over MgSO4 and evaporated in vacuo. The residue was crystallized from n-hexane to give (2R)-2-{[N,N-di(4-flurophenyl)carbamoyloxy]methyl}-5-[(ethoxycarbonyl)methoxy]-2-hydroxy-1,2,3,4-tetrahydronaphthalene (0.16 g) as white solid.

reactant | (2R)-2-{[N,N-di(4-fluorophenyl)-carbamoyloxy]methyl}-2,5-dihydroxy-1,2,3,4-tetrahydro-naphthalene | 0.18 g | FC1=CC=C(C=C1)N(C(=O)OC[C@@]1(CC2=CC=CC(=C2CC1)O)O)C1=CC=C(C=C1)F | C24H21F2NO4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 0.047 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 1.8 ml | CN(C)C=O | C3H7NO
product | (2R)-2-{[N,N-di(4-flurophenyl)carbamoyloxy]methyl}-5-[(ethoxycarbonyl)methoxy]-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 0.16 g | FC1=CC=C(C=C1)N(C(=O)OC[C@@]1(CC2=CC=CC(=C2CC1)OCC(=O)OCC)O)C1=CC=C(C=C1)F | C28H27F2NO6
